Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],4.42640211316
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],3.5141851995599995
[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.2836256565200002
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.909979220069999
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],7.05183178
[H:15].[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.52221958523
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1],4.7129203766800005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14],1.6079891198299998
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.97196033524
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],2.26893614153
[H:1][C:2]#[C:3][C:5]#[C:6][O:7][C:8]([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-1.67393818487
[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.60825587132
[C:6]([H:7])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])(/[C:4]([H:5])=[C:8]/[C:9]([H:10])([H:11])[H:12])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.76417486105
[C:4]#[C:5][O:6][H:7].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7],-6.14930009905
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.6713031267
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.50406063066
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],0.33711082546
[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],0.415790998541
[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.90487105015
[C:7]([H:8])([H:9])[H:10].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-6.36350816793
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.910324450280001
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.26625268
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.4654215060100002
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[O:10][H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:10][H:11],3.82425793814
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.3687102948800005
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:8][H:9].[H:7],4.26088116523
[H:1][C:2]([H:3])=[C:4][C:11]([C:5][O:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-2.04076983075
